US03950333
N-Cyano-N'-[2-(4-imidazolylmethylthio)ethyl]guanidine
4-((2-Aminoethyl)thiomethyl)imidazole is reacted with dimethyl-N-cyanoimidodithiocarbonate according to the procedure of Example 3(c)(i) and the resultant N-cyano-N'-[2-(4-imidazolylmethylthio)ethyl]-S-methylisothiourea treated with ammonical ethanol according to the procedure of Example 5 to give the title compound.

reactant | 4-((2-Aminoethyl)thiomethyl)imidazole | NCCSCC=1N=CNC1 | C6H11N3S
reactant | N-cyano-N'-[2-(4-imidazolylmethylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1N=CNC1 | C9H13N5S2
solvent | ethanol | C(C)O | C2H6O
product | N-Cyano-N'-[2-(4-imidazolylmethylthio)ethyl]guanidine | C(#N)NC(=N)NCCSCC=1N=CNC1 | C8H12N6S
